US09255100B2
3-(3-Amino-1H-indazol-6-yl)-N-isobutyl-6-phenylimidazo[1,2-b]pyridazin-8-amine
To a solution of 46 mg (119 μmol) 2-fluoro-4-[8-(isobutylamino)-6-phenylimidazo[1,2-b]pyridazin-3-yl]benzonitrile which was prepared according to intermediate example 11a in 2.5 mL n-butanol were added 232 μL hydrazine hydrate and the mixture was heated at 120° C. overnight. The precipitate was filtered, washed with 2-propanol and dried to give 26.5 mg (53%) of the title compound.

reactant | 2-fluoro-4-[8-(isobutylamino)-6-phenylimidazo[1,2-b]pyridazin-3-yl]benzonitrile | 119 μmol, 46 mg | FC1=C(C#N)C=CC(=C1)C1=CN=C2N1N=C(C=C2NCC(C)C)C2=CC=CC=C2 | C23H20FN5
reactant | hydrazine hydrate | 232 μL | O.NN
solvent | n-butanol | 2.5 mL | C(CCC)O | C4H10O
product | 3-(3-Amino-1H-indazol-6-yl)-N-isobutyl-6-phenylimidazo[1,2-b]pyridazin-8-amine | 26.5 mg, 53% | NC1=NNC2=CC(=CC=C12)C1=CN=C2N1N=C(C=C2NCC(C)C)C2=CC=CC=C2 | C23H23N7
